US04539429
1-[2-(4-Benzyloxyphenylamino)-5-methoxyphenyl]ethanone (9 g, 0.0258 mole) in 810 ml of ethanol and 90 ml of acetic acid was hydrogenated in a Parr apparatus in the presence of 900 mg of 10% palladium-on-carbon catalyst. After the required amount of hydrogen had been consumed, the reaction mixture was filtered and the solvents removed in vacuo. The residue was partitioned between ether and 10% aqueous sodium bicarbonate. The ether extracts were dried (MgSO4), the solvent removed, and the residue chromatographed on silica gel using chloroform as the eluant. There was obtained 5.33 g of 1-[2-(4-hydroxyphenylamino)-5-methoxyphenyl]ethanone, orange solid, m.p. 118°-119° C.

reactant | 1-[2-(4-Benzyloxyphenylamino)-5-methoxyphenyl]ethanone | 0.0258 mole, 9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=C(C=C(C=C1)OC)C(C)=O | C22H21NO3
solvent | ethanol | 810 ml | C(C)O | C2H6O
solvent | acetic acid | 90 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | 900 mg | [Pd] | Pd
product | 1-[2-(4-hydroxyphenylamino)-5-methoxyphenyl]ethanone | 5.33 g | OC1=CC=C(C=C1)NC1=C(C=C(C=C1)OC)C(C)=O | C15H15NO3
